US07691877B2
4-Amino-1-(6-methyl-pyridin-3-ylmethyl)-6-oxazol-2-yl-1,3-dihydro-imidazo[4,5-c]pyridine-2-one
CDI (272 mg) was added to a solution of N2,N2-dibenzyl-N4-(6-methyl-pyridin-3-ylmethyl)-6-oxazol-2-yl-pyridine-2,3,4-triamine (400 mg) in THF (10 ml). The solution was left to stir under N2 at 60° C. for 5 h. A further 3 equivalents of CDI (408 mg) were added and the reaction heated at reflux for 16 h. The reaction mixture was allowed to cool then concentrated in vacuo. The crude mixture was then dissolved in concentrated H2SO4 (5 ml) and left for 30 minutes at RT. The dark brown solution was added drop-wise onto crushed ice. The pH was adjusted to ˜8 by addition of a saturated solution of K2CO3 then the mixture was filtered. The solid obtained was washed with EtOAc (50 ml) then the organic and aqueous filtrates were transferred to a separating funnel. The layers were separated and the aqueous was re-extracted with EtOAc (50 ml). The organics were combined, dried (MgSO4) and evaporated to provide a gummy solid. This was triturated with Et2O and the solid collected by filtration and washed with Et2O, giving the title compound as an off-white solid (30 mg). 1H NMR (CDCl3, 400 MHz) □ 2.45 (s, 3H), 5.09 (s, 2H), 7.21-7.28 (m, 2H), 7.30 (s, 1H), 7.70 (dd, 1H), 7.95 (s, 1H), 8.42 (d, 1H). LCMS rt=2.29 m/z 323 [MH]+

reactant | CDI | 272 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N2,N2-dibenzyl-N4-(6-methyl-pyridin-3-ylmethyl)-6-oxazol-2-yl-pyridine-2,3,4-triamine | 400 mg | C(C1=CC=CC=C1)N(C1=NC(=CC(=C1N)NCC=1C=NC(=CC1)C)C=1OC=CN1)CC1=CC=CC=C1 | C29H28N6O
reactant | CDI | 408 mg, 3 equivalents | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-Amino-1-(6-methyl-pyridin-3-ylmethyl)-6-oxazol-2-yl-1,3-dihydro-imidazo[4,5-c]pyridine-2-one | 30 mg | NC1=NC(=CC2=C1NC(N2CC=2C=NC(=CC2)C)=O)C=2OC=CN2 | C16H14N6O2
